Test LDO Tran

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.include ../spice_netlist/LDO_TB.txt

.param mc_mm_switch=0
.param mc_pr_switch=0

.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/corners/tt.spice
.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/corners/tt/specialized_cells.spice

***************************************
* Step 2: Replace circuit param.  here.
***************************************
.include ../design_variables/LDO_TB.txt
.PARAM supply_voltage = 1.8
.PARAM Vref = 0.4
.PARAM PARAM_ILOAD = 55m 
.PARAM val0 = 5m
.PARAM val1 = 55m
.PARAM GBW_ideal = 5e4
.PARAM STEP_TIME = '10/GBW_ideal'

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc vref_in 0 'Vref'

* Circuit List:
* Basic_LDO


* XLDO gnda vdda vinn vout vfb vinp Ib
*        |  |     |     |   |    |   |
*        |  |     |     |   |    |   bias current
*        |  |     |     |   |    Non-inverting input 
*        |  |     |     |   Feedback voltage 
*        |  |     |     |   
*        |  |     |     Output
*        |  |     Inverting Input
*        |  Positive Supply
*         Negative Supply

***************************************
* Step 3: Replace circuit name below.
* e.g. Basic_LDO -> DFCFC_LDO
*************************************** 
*   Tran TB   
x1 vss vdd vref_in vout1 vfb1 vfb1 Ib Basic_LDO
Ib Ib 0 DC='current_0_bias'
XCL vout1 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
Iload1 vout1 0 pulse('val0' 'val1' 1u 1p 1p '0.25*STEP_TIME' 1)

.control
* save all voltage and current
save all
.options savecurrents 
set filetype=ascii
set units=degrees

* Tran test (STEP_TIME = 10/GBW_ideal)
tran 10n 100u
meas tran v_min MIN v(vout1) from=0 to= 50u
meas tran v_max MAX v(vout1) from=50u to= 100u
let v_undershoot = 4*0.4 - v_min
let v_overshoot = v_max - 4*0.4
print v_undershoot 
print v_overshoot
plot v(vout1)
wrdata LDO_TB_Tran_meas v_undershoot v_overshoot

.endc

.end
